US04198424
1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanol
50 g of 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone are dissolved in 100 ml of methanol and 20 ml of water; thereafter, 4.05 g of sodium borohydride are added portionwise, with stirring. Stirring is continued for a further hour, methanol is largely distilled off, 100 ml of water are added and extraction is effected with methylene chloride. The organic phase is extracted with 400 ml of 10% strength hydrochloric acid, the hydrochloric acid aqueous phase is rendered alkaline with sodium hydroxide solution and the liberated base is extracted with methylene chloride. The organic phase is concentrated and the resulting oily residue is distilled to obtain 47.4 g (94% of theory) of the title compound as a mixture of diastereoisomers of b.p. 128° at 0.001 mm Hg.

reactant | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone | 50 g | COC=1C=C(C=CC1)C(CC1N(CCC1)C)=O | C14H19NO2
reactant | sodium borohydride | 4.05 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanol | COC=1C=C(C=CC1)C(CC1N(CCC1)C)O | C14H21NO2
